US07307084B2
BE. 2-Ethyl-7-hydroxy-3-methyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide
A solution of 10.9 g (26.6 mmol) 7-benzyloxy-2-ethyl-3-methyl-3H-benzimidazole-5-carboxylic acid dimethylamide and 1.8 ml acetic acid in 160 ml ethanol was hydrogenated over 1.7 g 10% Pd/C in autoclave (5 bar H2) at 50° C. for 18 h. The catalyst was filtered off and the filtrate was concentrated in vacuo. The residue was crystallized from acetone to afford 7 g (91%) of the title compound as a white solid. m.p. 193°-199° C.

reactant | 7-benzyloxy-2-ethyl-3-methyl-3H-benzimidazole-5-carboxylic acid dimethylamide | 26.6 mmol, 10.9 g | CN(C(=O)C1=CC2=C(N=C(N2C)CC)C(=C1)OCC1=CC=CC=C1)C | C20H23N3O2
reactant | acetic acid | 1.8 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 160 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.7 g | [Pd] | Pd
product | 2-Ethyl-7-hydroxy-3-methyl-3H-benzimidazole-5-carboxylic Acid Dimethylamide | 7 g, 91% | CN(C(=O)C1=CC2=C(N=C(N2C)CC)C(=C1)O)C | C13H17N3O2
